US08217027B2
3-Amino-5-(4-octylphenyl)tetrahydrofuran-3-carboxylic acid (0.246 g, 0.770 mmol) was dissolved in THF (15.40 ml). A solution of lithium aluminum hydride (0.770 ml, 1.540 mmol) (Aldrich) was added carefully and the reaction stirred for about 3 h. The reaction was quenched by addition of water (60 uL) and stirred for about 30 min. 10% NaOH (180 uL) was added and the reaction stirred for about 1 h. Finally, water (60 uL) was added and the reaction stirred overnight. The mixture was filtered through Celite® and the solvents removed under reduced pressure. The residue was purified by flash column chromatography (0.5″×7″ of silica) eluting with 10% MeOH in methylene chloride and the product fractions combined. The solvents were removed under reduced pressure to provide (3-amino-5-(4-octylphenyl)tetrahydrofuran-3-yl)methanol (0.1 g, 0.327 mmol, 42.5% yield) as a colorless oil: LC/MS (method A) Rt=3.12 min.; MS m/z: 306.42 (M+H)+.

reactant | 3-Amino-5-(4-octylphenyl)tetrahydrofuran-3-carboxylic acid | 0.770 mmol, 0.246 g | NC1(COC(C1)C1=CC=C(C=C1)CCCCCCCC)C(=O)O | C19H29NO3
reactant | lithium aluminum hydride | 1.540 mmol, 0.770 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 15.40 ml | C1CCOC1 | C4H8O
product | (3-amino-5-(4-octylphenyl)tetrahydrofuran-3-yl)methanol | 0.327 mmol, 0.1 g, 42.5% yield | NC1(COC(C1)C1=CC=C(C=C1)CCCCCCCC)CO | C19H31NO2
